US09102642B2
4-(2-Ethyl-4-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione (0.100 g, 0.34 mmol) is added to a mixture of 2-fluoro-5-trifluoromethylpyridine (0.061 g, 0.41 mmol) and potassium carbonate (0.110 g, 0.69 mmol) in N,N-dimethylformamide (2 ml), and the mixture is heated at 140° C. under microwave irradiation for 1 hour. The mixture is cooled to room temperature, then acidified by addition of 2M aqueous hydrochloric acid. The mixture is diluted with dichloromethane and passed through a phase separation cartridge. The organic phase is concentrated to around 2 ml, and purified by preparative reverse phase HPLC to give 4-[4-(5-trifluoromethylpyridin-2-yloxy)-2-ethylphenyl]-2,2,6,6-tetramethylpyran-3,5-dione.

reactant | 4-(2-Ethyl-4-hydroxyphenyl)-2,2,6,6-tetramethylpyran-3,5-dione | 0.34 mmol, 0.100 g | C(C)C1=C(C=CC(=C1)O)C1C(C(OC(C1=O)(C)C)(C)C)=O | C17H22O4
reactant | 2-fluoro-5-trifluoromethylpyridine | 0.41 mmol, 0.061 g | FC1=NC=C(C=C1)C(F)(F)F | C6H3F4N
reactant | potassium carbonate | 0.69 mmol, 0.110 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[4-(5-trifluoromethylpyridin-2-yloxy)-2-ethylphenyl]-2,2,6,6-tetramethylpyran-3,5-dione | FC(C=1C=CC(=NC1)OC1=CC(=C(C=C1)C1C(C(OC(C1=O)(C)C)(C)C)=O)CC)(F)F | C23H24F3NO4
